US07678820B2
To a solution of 3-chloro-4-(2,2,2-trifluoro-1-methylethoxy)benzonitrile (430 mg) in IPA (3 ml) was added a 5M aqueous NaOH solution (1.37 ml), followed by stirring at 80° C. for 24 hours, and a 5M aqueous NaOH solution (1.37 ml) was further added thereto, followed by stirring at 95° C. for 24 hours. The reaction solution was concentrated until the amount was reduced to a half. To the residue was added 12M HCl, and the resulting precipitate was collected by filtration, and then dried to obtain 3-chloro-4-(2,2,2-trifluoro-1-methylethoxy)benzoic acid as a yellow solid.

reactant | 3-chloro-4-(2,2,2-trifluoro-1-methylethoxy)benzonitrile | 430 mg | ClC=1C=C(C#N)C=CC1OC(C(F)(F)F)C | C10H7ClF3NO
reactant | NaOH | 5M, 1.37 ml | [OH-].[Na+]
reactant | NaOH | 5M, 1.37 ml | [OH-].[Na+]
reactant | IPA | 3 ml | CC(C)O | C3H8O
product | 3-chloro-4-(2,2,2-trifluoro-1-methylethoxy)benzoic acid | ClC=1C=C(C(=O)O)C=CC1OC(C(F)(F)F)C | C10H8ClF3O3
